US04409218
3-[(2R*,4aS*,8aS*)-2-Ethyl-4-methyloctahydro-2H-1,4-benzoxazin-2yl]phenol
(2R*,4aS*,8aS*)-2-Ethyl-2-(3-methoxyphenyl)-4-methyloctahydro-2H-1,4-benzoxazine (0.5 g) in dry toluene (5 cm3) was added under nitrogen to di-isobutylaluminium hydride (20% in toluene, 1.2 M, 15 cm3) at room temperature. The mixture was then heated to reflux under nitrogen for 51/2 hr. The mixture was cooled in ice to 0° and treated cautiously with saturated Rochelle salt solution (75 cm3) and the mixture was stirred for 1 hr. Ether (30 cm3) was added and the phases were separated. The aqueous phase was then treated with an equal volume of saturated ammonium chloride solution and was extracted with further ether. The combined organic phases were dried (Na2SO4) and evaporated, leaving impure title compound base as a cloudy oil which crystallised to a pale yellow mass (0.45 g).

reactant | (2R*,4aS*,8aS*)-2-Ethyl-2-(3-methoxyphenyl)-4-methyloctahydro-2H-1,4-benzoxazine | 0.5 g | C(C)[C@@]1(O[C@@H]2[C@@H](N(C1)C)CCCC2)C2=CC(=CC=C2)OC | C18H27NO2
reactant | di-isobutylaluminium hydride | 1.2 M, 15 cm3 | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Rochelle salt | 75 cm3 | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
reactant | Ether | 30 cm3 | CCOCC | C4H10O
solvent | toluene | 5 cm3 | C1(=CC=CC=C1)C | C7H8
product | 3-[(2R*,4aS*,8aS*)-2-Ethyl-4-methyloctahydro-2H-1,4-benzoxazin-2yl]phenol | C(C)[C@@]1(O[C@@H]2[C@@H](N(C1)C)CCCC2)C=2C=C(C=CC2)O | C17H25NO2
